US07897631B2
2-Amino-pent-4-ynoic acid methyl ester hydrochloride (2.91 g, 17.8 mmol) was treated to an Akabori reduction followed by a cyanamide condensation employing conditions previously reported to produce 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (1.65 g, 59%) as a yellow oil (Olofson et al., Journal of Organic Chemistry 1997, 62, (23), 7918-7919). 1H NMR (300 MHz, CD3OD) δ 6.30 (s, 1H), δ 5.02 (d, 2H), δ 2.26 (t, 1H) ppm; 13C NMR (75 MHz, CD3OD) δ 150.1, 127.2, 109.6, 83.6, 69.8, 15.9 ppm; HRMS (ESI) calcd for C6H7N3 (M+) 122.0712. found 122.0713.

reactant | 2-Amino-pent-4-ynoic acid methyl ester hydrochloride | 17.8 mmol, 2.91 g | Cl.COC(C(CC#C)N)=O
reactant | cyanamide | N#CN | CH2N2
product | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | 1.65 g, 59% | Cl.C(C#C)C=1N=C(NC1)N | InChI=1S/C6H7N3.ClH/c1-2-3-5-4-8-6(7)9-5;/h1,4H,3H2,(H3,7,8,9);1H
